US04943584
5-[(p-phenoxy)-phenoxymethyl]-3-methylisoxazole (compound no. 31.25)
At 10° to 20° C., 18.6 g of p-phenoxyphenol in 50 ml of dimethyl sulfoxide is dripped into 3.1 g of sodium hydride (85% strength in paraffin) in 100 ml of dimethyl sulfoxide. The mixture is stirred for 30 minutes at 50° C. and then 3-methyl-5-chloromethylisoxazole is dripped in at 15°-20° C. The mixture is worked up in the usual manner after 8 hours at 70° C. There is obtained 26.7 g of compound no. 31.25 of m.p. 48°-51° C.

reactant | p-phenoxyphenol | 18.6 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)O | C12H10O2
reactant | sodium hydride | 3.1 g | [H-].[Na+]
reactant | 3-methyl-5-chloromethylisoxazole | CC1=NOC(=C1)CCl | C5H6ClNO
solvent | dimethyl sulfoxide | 50 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 100 ml | CS(=O)C | C2H6OS
product | 5-[(p-phenoxy)-phenoxymethyl]-3-methylisoxazole | 26.7 g | O(C1=CC=CC=C1)C1=CC=C(OCC2=CC(=NO2)C)C=C1 | C17H15NO3
